* Schematics Netlist *



I_I3         $N_0001 $N_0002 DC 3A  
R_R4         0 $N_0002  10ohm  
R_R3         0 $N_0001  10ohm  
R_R2         $N_0001 $N_0002  30ohm  
R_R1         $N_0003 $N_0001  20ohm  
V_V1         $N_0003 0 10V
I_I2         $N_0002 0 DC -10A  
