* Schematics Netlist *



R_R2         a 2  16  
V_V1         1 0 10V
E_E1         2 3 a 0 0.5
R_R1         1 2  8  
R_R5         0 4  1k  
R_R3         0 a  4  
R_R4         3 4  20  
