* Schematics Netlist *



V_V1         1 0 10V
R_R1         1 2  8  
R_R5         0 4  8  
G_G1         3 2 a 0 1
R_R3         0 a  4  
R_R2         a 2  16  
R_R4         3 4  20  
