* Schematics Netlist *



V_V1         1 0 10V
R_R5         0 4  8  
R_R1         1 a  1k  
R_R2         5 b  16  
R_R3         0 5  4  
R_R4         3 4  20  
H_H1         a 3 VH_H1 0.5
VH_H1        a b 0V
