* Schematics Netlist *



R_R1         1 a  8  
R_R2         5 b  16  
R_R3         0 5  4  
R_R4         3 4  20  
F_F1         3 a VF_F1 0.5
VF_F1        a b 0V
R_R5         0 4  8  
V_V1         1 0 10V
