* Schematics Netlist *



G_G1         5 2 b 0 0.5
R_R5         0 b  8  
V_V2         x 0 10V
R_R3         0 6  4  
R_R2         6 5  16  
R_R1         y 2  8  
R_R4         3 b  20  
H_H1         2 3 VH_H1 0.5
VH_H1        x y 0V
